US08110581B2
Methyl methyl{4-[(5S)-1-oxo-2-(tetrahydro-2H-pyran-4-yl)-2,7-diazaspiro[4.5]dec-7-yl]phenyl}carbamate
Sodium hydride (1.6 mg, 0.000041 mol) was added to a solution of methyl{4-[(5S)-1-oxo-2-(tetrahydro-2H-pyran-4-yl)-2,7-diazaspiro[4.5]dec-7-yl]phenyl}carbamate (8.0 mg, 0.000021 mol) in tetrahydrofuran (1.0 mL, 0.012 mol) at rt. After stirring for 5 min., methyl iodide (2.6 μL, 0.000041 mol) was added and the reaction mixture was stirred for 1 h at rt. The crude product was purified by prep-HPLC. LC-MS: 402.3 (M+H)+.

reactant | Sodium hydride | 0.000041 mol, 1.6 mg | [H-].[Na+]
reactant | methyl{4-[(5S)-1-oxo-2-(tetrahydro-2H-pyran-4-yl)-2,7-diazaspiro[4.5]dec-7-yl]phenyl}carbamate | 0.000021 mol, 8.0 mg | COC(NC1=CC=C(C=C1)N1C[C@@]2(CCN(C2=O)C2CCOCC2)CCC1)=O | C21H29N3O4
reactant | tetrahydrofuran | 0.012 mol, 1.0 mL | O1CCCC1 | C4H8O
reactant | methyl iodide | 0.000041 mol, 2.6 μL | CI | CH3I
product | Methyl methyl{4-[(5S)-1-oxo-2-(tetrahydro-2H-pyran-4-yl)-2,7-diazaspiro[4.5]dec-7-yl]phenyl}carbamate | CN(C(OC)=O)C1=CC=C(C=C1)N1C[C@@]2(CCN(C2=O)C2CCOCC2)CCC1 | C22H31N3O4
